US09227985B2
Step 2. 2-Pyridin-2-yl-1,2,3,4-tetrahydroquinoline
A suspension of 2-pyridin-2-ylquinoline (0.767 g, 3.72 mmol), 1,4-dihydro-3,5-dicarbethoxy-2,6-dimethylpyridine (2.17 g, 8.55 mmol), and diphenyl hydrogen phosphate (0.0093 g, 0.037 mmol) in benzene (18.6 mL) was heated at 60° C. for 10 h. The reaction mixture was treated with 2-phenylquinoline (0.305 g, 1.49 mmol) and heated at 60° C. for 3 h. The reaction mixture was then concentrated to a crude solid. Purification by flash column chromatography (100% hexanes to 50% ethyl acetate/hexanes [the ethyl acetate contained 5% methanol]) gave the desired product (0.735 g, 94%) as a racemic mixture. LCMS calculated for C14H15N2 (M+H)+: m/z=211.1. found: 211.1.

reactant | 2-pyridin-2-ylquinoline | 3.72 mmol, 0.767 g | N1=C(C=CC=C1)C1=NC2=CC=CC=C2C=C1 | C14H10N2
reactant | 1,4-dihydro-3,5-dicarbethoxy-2,6-dimethylpyridine | 8.55 mmol, 2.17 g | C(=O)(OCC)C1=C(NC(=C(C1)C(=O)OCC)C)C | C13H19NO4
reactant | 2-phenylquinoline | 1.49 mmol, 0.305 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C=C1 | C15H11N
solvent | benzene | 18.6 mL | C1=CC=CC=C1 | C6H6
catalyst | diphenyl hydrogen phosphate | 0.037 mmol, 0.0093 g | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)O | C12H11O4P
product | 2-Pyridin-2-yl-1,2,3,4-tetrahydroquinoline | 0.735 g, 94% | N1=C(C=CC=C1)C1NC2=CC=CC=C2CC1 | C14H14N2
